US04077982
5-(2-Fluorobenzyloxy)-2,5-dimethyl-1,3-dioxane
Using the procedure of Example 51, 2-(2-fluorobenzyloxy)-2-methyl-1,3-propanediol and acetaldehyde were reacted, using hexane as solvent to give, after separation by column chromatography, t-5-(2-fluorobenzyloxy)-r-2-methyl-5-methyl-1,3-dioxane, nD25 1.4902, and c-5-(2-fluorobenzyloxy)-r-2-methyl-5-methyl-1,3-dioxane, nD25 1.4939. The ir and nmr spectra were consistent with the assigned structures.

reactant | 2-(2-fluorobenzyloxy)-2-methyl-1,3-propanediol | FC1=C(COC(CO)(CO)C)C=CC=C1 | C11H15FO3
reactant | acetaldehyde | C(C)=O | C2H4O
solvent | hexane | CCCCCC | C6H14
product | 5-(2-Fluorobenzyloxy)-2,5-dimethyl-1,3-dioxane | FC1=C(COC2(COC(OC2)C)C)C=CC=C1 | C13H17FO3
